US07504408B2
7-[4-(4-acetylpiperazin-1-yl)butoxy]-N-[5-chloro-7-(3-methoxyprop-1-yn-1-yl)-1,3-benzodioxol-4-yl]-6-methoxyquinazolin-4-amine
A mixture of 7-(4-chlorobutoxy)-N-[5-chloro-7-(3-methoxyprop-1-yn-1-yl)-1,3-benzodioxol-4-yl]-6-methoxyquinazolin-4-amine (0.23 g, 0.4 mmol), triethylamine (0.22 ml, 1.6 mmol), N-acetyl piperazine (0.205 g, 1.6 mmol) in 2 methoxyethanol (2 ml) was heated to 80 C for 12 hours and then at 100 C for 7 hours. The solvent was evaporated under reduced pressure and the residue was partitioned between ethyl acetate and water. The organic layer was separated, dried over magnesium sulfate and evaporated under reduced pressure. Flash chromatography on silica eluting with a mixture of 2-10% methanol in dichloromethane gave the product as a light orange solid (0.041 g, 17%). NMR Spectrum: (DMSOd6 at 373k+d4 acetic acid) 1.73 (m, 2H), 1.88 (m, 2H), 1.98 (s, 3H), 2.67 (t, 4H), 3.09 (t, 2H), 3.37 (s, 3H), 3.55 (t, 4H), 3.96 (s, 3H), 4.18 (t, 2H), 4.32 (s, 2H), 6.09 (s, 2H), 7.05 (s, 1H), 7.21 (s, 1H), 7.80 (s, 1H), 8.25 (s, 1H). Mass Spectrum: M+H+ 596 and M+H− 594.

reactant | 7-(4-chlorobutoxy)-N-[5-chloro-7-(3-methoxyprop-1-yn-1-yl)-1,3-benzodioxol-4-yl]-6-methoxyquinazolin-4-amine | 0.4 mmol, 0.23 g | ClCCCCOC1=C(C=C2C(=NC=NC2=C1)NC1=C(C=C(C=2OCOC21)C#CCOC)Cl)OC | C24H23Cl2N3O5
reactant | triethylamine | 1.6 mmol, 0.22 ml | C(C)N(CC)CC | C6H15N
reactant | N-acetyl piperazine | 1.6 mmol, 0.205 g | C(C)(=O)N1CCNCC1 | C6H12N2O
reactant | methoxyethanol | 2 ml | COC(C)O | C3H8O2
product | 7-[4-(4-acetylpiperazin-1-yl)butoxy]-N-[5-chloro-7-(3-methoxyprop-1-yn-1-yl)-1,3-benzodioxol-4-yl]-6-methoxyquinazolin-4-amine | 0.041 g, 17% | C(C)(=O)N1CCN(CC1)CCCCOC1=C(C=C2C(=NC=NC2=C1)NC1=C(C=C(C=2OCOC21)C#CCOC)Cl)OC | C30H34ClN5O6
